US06057006
306.3 g of 8-(3-fluorophenyl)-1,4-dioxaspiro[4.5]dec-7-ene were dissolved in 3 l of THF, and 30 g of 5% Pd/C were added. The mixture was then hydrogenated at atmospheric pressure. The resultant solution was filtered and evaporated to a residue. The residue was recrystallized twice from 200 ml of hexane at -60° C., giving 8-(3-fluorophenyl)-1,4-dioxaspiro[4.5]decane.

reactant | 8-(3-fluorophenyl)-1,4-dioxaspiro[4.5]dec-7-ene | 306.3 g | FC=1C=C(C=CC1)C1=CCC2(OCCO2)CC1 | C14H15FO2
solvent | THF | 3 l | C1CCOC1 | C4H8O
catalyst | Pd/C | 30 g | [Pd] | Pd
product | 8-(3-fluorophenyl)-1,4-dioxaspiro[4.5]decane | FC=1C=C(C=CC1)C1CCC2(OCCO2)CC1 | C14H17FO2
